US03994954
N-t-Butoxycarbonyl-2-phenylglycine n-butyl ester
A solution containing 2.4 mmol. of phenyl lithium in benzene-ether was added dropwise at -78° under argon to a solution of 700 mg. (2.4 mmol.) of N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester in 15 ml. of dry ether. The mixture was stirred for 2 hours at -78°, then for 1 hour at 25°. The mixture was diluted with water, the layers were separated and the ether layer was washed with water, dried (Na2SO4) and concentrated in vacuo. The residue was chromatographed on silica gel with methylene chloride to give a crude product which was rechromatographed on basic alumina to give the title compound.

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester | 2.4 mmol | C(CCC)OC(C(NC(=O)OC(C)(C)C)OC(C)=O)=O | C13H23NO6
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | N-t-Butoxycarbonyl-2-phenylglycine n-butyl ester | C(CCC)OC(C(NC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C17H25NO4
